US09421205B2
(e) Ethyl 2-(4-((triethylsilyl)ethynyl)pyrimidin-5-yl)acetate (I109)
To a nitrogen de-gassed solution of ethyl 2-(4-chloropyrimidin-5-yl)acetate (I108) (0.823 g, 4.10 mmol) in dry DMF (15 mL) were added triethylamine (1.715 mL, 12.31 mmol) followed by triphenylphosphine (0.124 g, 0.473 mmol), trans-dichlorobis(triphenyl-phosphine)palladium(II) (0.144 g, 0.205 mmol), Cu(I)I (0.078 g, 0.410 mmol) and finally (triethylsilyl)acetylene (1.470 mL, 8.204 mmol). The reaction mixture was then heated under microwave irradiation at 120° C. for 25 minutes, concentrated in vacuo and purified by silica gel chromatography (Isolera Biotage, 40 g Si cartridge, 0-30% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I109) (1.176 g, 94% yield) as a yellow-orange oil; 1H NMR (400 MHz, CDCl3) δ 9.08 (s, 1H), 8.68 (s, 1H), 4.18 (q, J=7.1 Hz, 2H), 3.80 (s, 2H), 1.26 (t, J=7.1 Hz, 3H), 1.10-1.01 (m, 9H), 0.77-0.67 (m, 6H) LCMS Method C: rt 6.64 min; m/z 305.1 [M+H]+.

reactant | ethyl 2-(4-chloropyrimidin-5-yl)acetate | 4.10 mmol, 0.823 g | ClC1=NC=NC=C1CC(=O)OCC | C8H9ClN2O2
reactant | triethylamine | 12.31 mmol, 1.715 mL | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.473 mmol, 0.124 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (triethylsilyl)acetylene | 8.204 mmol, 1.470 mL | C(C)[Si](CC)(CC)C#C | C8H16Si
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | trans-dichlorobis(triphenyl-phosphine)palladium(II) | 0.205 mmol, 0.144 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethyl 2-(4-((triethylsilyl)ethynyl)pyrimidin-5-yl)acetate | 94% yield | C(C)[Si](CC)(CC)C#CC1=NC=NC=C1CC(=O)OCC | C16H24N2O2Si
